US07361675B2
In 2.5 ml of N,N-dimethylformamide, 350 mg of 3-methylsulfonyl-5-(3-chlorophenyl)-1,2,4-thiadiazole and 98 mg of 2-butyne-1-ol were dissolved, to the resulting solution was added 56 mg of sodium hydride (60% oily) with ice-cooling, and the mixture was stirred for 30 minutes, and further stirred at room temperature for 1 hour. Then, the reaction mixture was poured into an aqueous saturated sodium chloride solution, and the mixture was extracted with t-butyl methyl ether. The residue obtained by concentration of the organic layer was subjected to silica gel column chromatography to obtain 290 mg of 5-(3-chlorophenyl)-3-(2-butynyloxy)-1,2,4-thiadiazole (the compound (9) of the present invention).

reactant | 3-methylsulfonyl-5-(3-chlorophenyl)-1,2,4-thiadiazole | 350 mg | CS(=O)(=O)C1=NSC(=N1)C1=CC(=CC=C1)Cl | C9H7ClN2O2S2
reactant | 2-butyne-1-ol | 98 mg | C(C#CC)O | C4H6O
reactant | sodium hydride | 56 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 5-(3-chlorophenyl)-3-(2-butynyloxy)-1,2,4-thiadiazole | 290 mg | ClC=1C=C(C=CC1)C1=NC(=NS1)OCC#CC | C12H9ClN2OS
